US06436929B1
A mixture of 6-(3-bromo-5-fluorophenyl)-4,4-dimethyl-2H-benz[d][1,3]oxazin-2-one (1 g, 2.8 mmol), zinc cyanide (0.2 g, 1.7 mmol), and tetrakis(triphenylphosphine)-palladium (0) (0.2 g, 0.17 mmol) in dry DMF (20 mL) was degassed to remove oxygen and was then heated at 85° C. under a blanket of nitrogen for 6.5 hours. The reaction solution was cooled to room temperature and poured onto a cold saturated aqueous ammonium chloride solution (100 mL). The white precipitate appeared and was collected on a filter. The white solid was washed with distilled water (3×20 mL) and dissolved in a mixture of ethyl acetate (10 mL) and methanol (10 mL). The solution was applied on a pad of silica gel and eluted with a mixture of ethyl acetate and hexane (1:1). After solvent was removed, 3-(4,4-dimethyl-2-oxo-1,4-dihydro-2H-benzo[d][1,3]oxazin-6-yl)-5-fluorobenzonitrile was obtained as a white solid (0.7 g, 84%): mp 253-254° C.; 1H-NMR (DMSO-d6) δ10.4 (s, 1H, D2O exchangeable), 8.13 (s, 1H), 7.92 (m, 1H), 7.82 (m, 1H), 7.73 (m, 2H), 6.98 (d, 1H, J=8.2 Hz), 1.68 (s, 6H); 19F-NMR (DMSO-d6) δ−112.25 (m, 1F); MS (EI) m/z 296(M+, 65%); Anal. Calc. For C17H13FN2O2: C, 68.91; H, 4.42; N, 9.45. Found: C, 68.85; H, 4.58; N, 9.14.

reactant | 6-(3-bromo-5-fluorophenyl)-4,4-dimethyl-2H-benz[d][1,3]oxazin-2-one | 2.8 mmol, 1 g | BrC=1C=C(C=C(C1)F)C1=CC2=C(NC(OC2(C)C)=O)C=C1 | C16H13BrFNO2
reactant | DMF | 20 mL | CN(C)C=O | C3H7NO
catalyst | zinc cyanide | 1.7 mmol, 0.2 g | [C-]#N.[Zn+2].[C-]#N
catalyst | tetrakis(triphenylphosphine)-palladium (0) | 0.17 mmol, 0.2 g | [Pd].C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
product | 3-(4,4-dimethyl-2-oxo-1,4-dihydro-2H-benzo[d][1,3]oxazin-6-yl)-5-fluorobenzonitrile | CC1(C2=C(NC(O1)=O)C=CC(=C2)C=2C=C(C#N)C=C(C2)F)C | C17H13FN2O2
